US04093736
2-Nitrobenzaldehyde is condensed with methyl cyclopropyl ketone to give 2-(2-nitrophenyl)vinyl cyclopropyl ketone. The latter is reduced selectively with hydroxylamine and hydroxylamine O-sulfonic acid in dilute sodium hydroxide solution to yield 2-(2-nitrophenyl)ethyl cyclopropyl ketone, which is then reduced with sodium borohydride to 2-(2-nitrophenyl)ethyl cyclopropyl carbinol. The carbinol is treated in the usual way with phosphorus tribromide and zinc bromide to afford 4-[6-(2-nitrophenyl)-3-hexenyl] bromide. The latter is reacted with potassium iodide, potassium carbonate and 3,5-heptanedione to produce 4-[6-(2-nitrophenyl)-3-hexenyl]-3,5-heptanedione which is selectively reduced with hydroxylamine and hydroxylamine O-sulfonic acid to give the title compound.

reactant | 2-Nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | methyl cyclopropyl ketone | C1(CC1)C(=O)C | C5H8O
product | 2-(2-nitrophenyl)vinyl cyclopropyl ketone | C1(CC1)C(=O)C=CC1=C(C=CC=C1)[N+](=O)[O-] | C12H11NO3
